US09382222B2
Step 4: (N-Cyclobutyl-N-(3-fluoro-phenyl)-4-(1-methanesulfonyl-piperidin-4-yloxy)-benzenesulfonamide)
To a solution of 4-{4-[cyclobutyl-(3-fluoro-phenyl)-sulfamoyl]-phenoxy}-piperidine-1-carboxylic acid tert-butyl ester (330 mg, 655 μmol) in DCM (9 mL) was added TFA (1 mL) and then the reaction was stirred at room temperature for 30 minutes. The reaction was concentrated and then purified by SCX eluting with 2 M NH3 in MeOH to give N-cyclobutyl-N-(3-fluoro-phenyl)-4-(piperidin-4-yloxy)-benzenesulfonamide (195 mg, 483 μmol). To a solution of N-cyclobutyl-N-(3-fluoro-phenyl)-4-(piperidin-4-yloxy)-benzenesulfonamide in DCM (10 mL) was added DIPEA (168 μL, 965 μmol) and methanesulfonyl chloride (41 μL, 531 μmol) and the reaction was stirred at room temperature for 30 minutes. Water was added and then extracted with DCM, filtered through a phase separator and concentrated. Purification by silica gel column chromatography (0-50% EtOAc in cyclohexane) followed by preparative reverse a phase HPLC gave the title compound (169 mg). 1H NMR δ (DMSO): 7.46 (2H, d, J=8.8 Hz), 7.38-7.39 (1H, m), 7.16-7.17 (3H, m), 6.77-6.78 (2H, m), 4.69-4.71 (1H, m), 4.20-4.22 (1H, m), 3.33-3.38 (4H, m), 3.13 (2H, ddd, J=12.1, 8.09, 3.4 Hz), 2.91 (3H, s), 2.03-2.06 (4H, m), 1.77-1.81 (4H, m), 1.53-1.56 (2H, m). LCMS (m/z, Method B) ES+ 482.9 [M+1]+.

reactant | N-cyclobutyl-N-(3-fluoro-phenyl)-4-(piperidin-4-yloxy)-benzenesulfonamide | C1(CCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1CCNCC1)C1=CC(=CC=C1)F | C21H25FN2O3S
reactant | DIPEA | 965 μmol, 168 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 531 μmol, 41 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclobutyl-N-(3-fluoro-phenyl)-4-(1-methanesulfonyl-piperidin-4-yloxy)-benzenesulfonamide | 169 mg | C1(CCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1CCN(CC1)S(=O)(=O)C)C1=CC(=CC=C1)F | C22H27FN2O5S2
